US07786108B2
Step 12. Preparation of (S)-tert-Butyl 5-azido-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Heat a mixture of (R)-tert-butyl 5-hydroxy-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (1.60 g, 4.65 mmol), diphenylphosphoryl azide (DPPA, 1.4 mL, 6.50 mmol) and DBU (1.0 mL, 6.50 mmol) in toluene (20 mL) at 65° C. under nitrogen for 12 h. Add silica gel to the cooled mixture and remove the solvents under reduced pressure. Purify the residue by column chromatography, eluting with ethyl acetate/hexanes (1:2), to provide the title compound as a colorless oil (1.45 g, 85%). APCI MS m/z 356 (M−N2)−.

reactant | (R)-tert-butyl 5-hydroxy-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 4.65 mmol, 1.60 g | O[C@H]1C2=C(N(CCC1)C(=O)OC(C)(C)C)C=C(C(=C2)C)C(F)(F)F | C17H22F3NO3
reactant | diphenylphosphoryl azide | 6.50 mmol, 1.4 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 6.50 mmol, 1.0 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-tert-Butyl 5-azido-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 1.45 g, 85% | N(=[N+]=[N-])[C@@H]1C2=C(N(CCC1)C(=O)OC(C)(C)C)C=C(C(=C2)C)C(F)(F)F | C17H21F3N4O2
